US06660756B2
3-(4-Methoxyphenyl)-2-propenenitrile
A solution of 4-iodoanisole (1 g, 4.2 mmol), acrylonitrile (0.3 ml, 4.7 mmol), tri-o-tolylphosphine (243 mg, 0.4 mmol), palladium (II) acetate (90 mg, 0.4 mmol) and triethylamine (1.78 ml, 12 mmol) in acetonitrile (20 ml) was refluxed under nitrogen for 14 hours. The reaction mixture was diluted with EtOAc (50 ml) and washed with 2M sodium hydrogen carbonate (100 ml), the organic layer was dried over magnessium sulphate and filtered. The filtrate was evaporated in vacuo and purified by column chromatography using pentane, then 95:5 pentane:ethyl acetate, then 90:10 pentane:ethyl acetate to give the title compound (414 mg, 2.5 mmol) as a mixture of cis and trans isomers as yellow crystals, 1H NMR (CDCl3 400 MHz) δ: 3.8 (s, 3H), 5.7 (d, 1H), 6.9 (d, 1H), 7.2 (d, 1H), 7.4 (d, 2H); LRMS: m/z 176 (M+NH4+); Anal. Found C, 74.44; H, 5.66; N, 8.36. C10H39NO0.1H2O requires C, 74.42; H, 5.65; N, 8.41%.

reactant | 4-iodoanisole | 4.2 mmol, 1 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | acrylonitrile | 4.7 mmol, 0.3 ml | C(C=C)#N | C3H3N
reactant | tri-o-tolylphosphine | 0.4 mmol, 243 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 12 mmol, 1.78 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
catalyst | palladium (II) acetate | 0.4 mmol, 90 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pentane | CCCCC | C5H12
product | 3-(4-Methoxyphenyl)-2-propenenitrile | 2.5 mmol, 414 mg | COC1=CC=C(C=C1)C=CC#N | C10H9NO
